US09193693B2
Step 2. 3-(2-Methylpiperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(2-methylpiperidin-1-yl)-2-phenylquinoxaline-6-carboxylate (107.9 mg, 0.30 mmol, 1.00 equiv) in methanol (20 mL). This was followed by the dropwise addition of a solution of sodium hydroxide (60 mg, 1.50 mmol, 5.00 equiv) in water (3 mL) with stiffing. The resulting solution was stirred overnight at 50° C. in an oil bath and concentrated under vacuum and diluted by 10 ml of water. The pH value of the aqueous solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting solid was collected by filtration and washed with methanol. This resulted in 54 mg (50%) of 3-(2-methylpiperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(2-methylpiperidin-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.30 mmol, 107.9 mg, 1.00 equiv | CC1N(CCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C22H23N3O2
reactant | sodium hydroxide | 1.50 mmol, 60 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 3-(2-Methylpiperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | CC1N(CCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C21H21N3O2
